US09255089B2
Butyllithium (1.6M solution in hexanes, 24 mL, 38 mmol) was added dropwise over 20 minutes to a solution of 2-bromopyridine (3.7 mL, 38 mmol in methyl-THF (100 mL) at −78° C. The reaction mixture was stirred for 1 hour and a solution of methyl 2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)benzoate (2.0 g, 7.7 mmol) in 20 mL of methyl-THF was added. The reaction mixture was warmed to room temperature, stirred for 30 minutes and quenched with water. The reaction mixture was extracted with ethyl acetate and purified by silica gel chromatography (90:9:1 ethyl acetate/methanol/ammonium hydroxide) to give (2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)phenyl)di(pyridin-2-yl)methanol as an orange powder.

reactant | Butyllithium | 38 mmol, 1.6M, 24 mL | C(CCC)[Li]
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | methyl 2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)benzoate | 7.7 mmol, 2.0 g | NC1=C(C(=O)OC)C=C(C=C1N)C=1C(=NOC1C)C | C13H15N3O3
reactant | methyl-THF | 100 mL | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
reactant | methyl-THF | 20 mL | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
product | (2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)phenyl)di(pyridin-2-yl)methanol | NC1=C(C=C(C=C1N)C=1C(=NOC1C)C)C(O)(C1=NC=CC=C1)C1=NC=CC=C1 | C22H21N5O2
